US07582673B2
To a solution of 2-nitro-4-pyridin-4-ylphenylamine (1 mmol) in pyridine (3 mL), 4-chloro-benzenesulfonyl chloride (1.2 mmol) was added and the resulting mixture was stirred at room temperature for 24 h. The reaction mixture was diluted with ethyl acetate (20 mL). The contents were washed with brine (25 mL), dried over sodium sulfate and concentrated under vacuum. The residue obtained was purified by column chromatography eluting with hexanes/ethyl acetate (1:1) then ethyl acetate to give 156 mg of 4-chloro-N-(2-nitro-4-pyridin-4-ylphenyl)benzene sulfonamide.

reactant | 2-nitro-4-pyridin-4-ylphenylamine | 1 mmol | [N+](=O)([O-])C1=C(C=CC(=C1)C1=CC=NC=C1)N | C11H9N3O2
reactant | 4-chloro-benzenesulfonyl chloride | 1.2 mmol | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-chloro-N-(2-nitro-4-pyridin-4-ylphenyl)benzene sulfonamide | 156 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)C1=CC=NC=C1)[N+](=O)[O-] | C17H12ClN3O4S
